US05153201
2-{(2-(1-Ethyl-2-phenylimidazol-4-yl)ethenyl}-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine dihydrochloride
2-{2-(1-Ethyl-2-phenylimidazol-4-yl)ethenyl}-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine was neutralized with hydrochloric acid and recrystallized from ethanoldiethyl ether to obtain the title compound (yield: 94.2%).

reactant | 2-{2-(1-Ethyl-2-phenylimidazol-4-yl)ethenyl}-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine | C(C)N1C(=NC(=C1)C=CC=1SC=2NCCCC2N1)C1=CC=CC=C1 | C19H20N4S
reactant | hydrochloric acid | Cl | ClH
product | (2-(1-Ethyl-2-phenylimidazol-4-yl)ethenyl}-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine dihydrochloride | yield: 94.2% | Cl.Cl.C(C)N1C(=NC(=C1)C=CC=1SC=2NCCCC2N1)C1=CC=CC=C1 | InChI=1S/C19H20N4S.2ClH/c1-2-23-13-15(21-18(23)14-7-4-3-5-8-14)10-11-17-22-16-9-6-12-20-19(16)24-17;;/h3-5,7-8,10-11,13,20H,2,6,9,12H2,1H3;2*1H
